US06967204B2
5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide (3.1 g, 17.0 mmol) and 10% palladium on carbon (600 mg) in ethanol (50 ml) were stirred under hydrogen (50 psi) at room temperature for 18 hours. The reaction mixture was filtered and the solid was washed with methanol (50 ml), dichloromethane (50 ml), ethanol (50 ml) and ethyl acetate (50 ml). The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (95:5 changing to 90:10, by volume) to give 4-amino-5-butyl-1H-pyrazol-3-carboxylic acid amide (2.37 g) as an an orange solid. 1H NMR (400 MHz, DMSO-D6): δ=12.24-12.32 (1H, brs), 7.02-7.14 (1H, brs), 6.80-6.95 (1H, brs 4.28-4.46 (2H, brs), 2.39-2.50 (2H, t, partially masked by solvent), 1.45-1.56 (2H, quin), 1.22-1.35 (2H, sext), 0.83-0.90 ppm. LRMS (electrospray): m/z [M−H]+ 181, [2M−H]+ 363. Anal. Found C, 52.58; H, 7.80; N, 30.56. C8H14N4O requires C, 52.73; H, 7.74; N, 30.75%.

reactant | 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide | 17.0 mmol, 3.1 g | C(CCC)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C8H12N4O3
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-amino-5-butyl-1H-pyrazol-3-carboxylic acid amide | 2.37 g | NC=1C(=NNC1CCCC)C(=O)N | C8H14N4O
